US07855297B2
5-Benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (2.03 g) was dissolved in dimethylformamide (27 mL), and sodium hydride (0.20 g) was added under ice-cooling. The mixture was stirred at the same temperature for 30 min. A solution of 3-chloromethyl-2,6-dimethoxypyridine (0.95 g) in dimethylformamide (6 mL) was added dropwise to the reaction mixture, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 5-benzyloxy-N-[(2,6-dimethoxypyridin-3-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.43 g).

reactant | 5-Benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 2.03 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 3-chloromethyl-2,6-dimethoxypyridine | 0.95 g | ClCC=1C(=NC(=CC1)OC)OC | C8H10ClNO2
solvent | dimethylformamide | 27 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 5-benzyloxy-N-[(2,6-dimethoxypyridin-3-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.43 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C(=NC(=CC1)OC)OC | C34H37N3O4
